* Schematics Netlist *

.EXTERNAL OUTPUT OUT


X_U4A         $N_0001 $N_0002 $N_0003 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         $N_0004 $N_0002 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         $N_0005 $N_0006 $N_0007 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         $N_0008 $N_0006 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         $N_0009 $N_0010 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9A         $N_0011 $N_0009 $N_0012 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10A         $N_0003 $N_0013 $N_0005 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11A         $N_0007 $N_0014 $N_0015 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12A         $N_0015 $N_0010 $N_0016 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U13A         $N_0016 $N_0012 $N_0017 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U14A         $N_0018 $N_0019 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U15A         $N_0017 $N_0019 $N_0020 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U16A         $N_0011 $N_0008 $N_0014 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U17A         $N_0011 $N_0004 $N_0013 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U18A         $N_0011 $N_0018 $N_0021 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U19A         $N_0020 $N_0021 OUT $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND $N_0001 IO_STM STIMULUS=DSTM2
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND $N_0011 IO_STM STIMULUS=DSTM1
