* Schematics Netlist *



X_U2A         $N_0001 $N_0002 $N_0003 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $N_0004 $N_0005 $N_0006 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0003 $N_0006 $N_0007 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         $N_0004 $N_0001 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM4         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0004 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=1 
+ 0s 0  
+ 1s 1  
+ 2s 0  
+ 3s 1 
+ 4s 0  
U_DSTM5         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0002 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=0.5s 
+ 0s 0  
+ 0.5s 1  
+ 1s 0  
+ 1.5s 1 
+ 2s 0  
+ 2.5s 1  
U_DSTM6         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0005 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=0.5s 
+ 0s 1  
+ 0.5s 0  
+ 1s 1  
+ 1.5s 0 
+ 2s 1  
+ 2.5s 0  
