* Schematics Netlist *



U_DSTM2         STIM(1,1) $G_DPWR $G_DGND $N_0001 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND $N_0002 IO_STM IO_LEVEL=0 
+ 0 0
+ +2uS 1
+REPEAT FOREVER
+ +2uS 0
+  +2uS 1
+ ENDREPEAT
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND $N_0003 IO_STM IO_LEVEL=0 
+ 0 0
+ +4uS 1
+REPEAT FOREVER
+ +4uS 0
+  +4uS 1
+ ENDREPEAT
X_U1A         $N_0002 $N_0001 $N_0004 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $N_0001 $N_0003 $N_0005 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $N_0004 $N_0006 $N_0007 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0007 $N_0005 $N_0006 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
