* Schematics Netlist *



U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0001 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1ms 1  
+ 2ms 0  
+ 3ms 1 
+ 4ms 0  
+ 5ms 1  
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND $N_0002 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5ms 1
+REPEAT FOREVER
+ +0.5ms 0
+  +0.5ms 1
+ ENDREPEAT
X_U1A         $D_HI $N_0001 $N_0002 $D_HI $N_0005 $N_0006 $G_DPWR $G_DGND 7474
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $D_HI $N_0005 $N_0002 $D_HI $N_0007 $N_0008 $G_DPWR $G_DGND 7474
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $N_0009 $N_0007 $N_0002 $D_HI $N_0010 $N_0011 $G_DPWR $G_DGND
+  7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $D_HI $N_0010 $N_0002 $D_HI $N_0012 $N_0013 $G_DPWR $G_DGND 7474
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
