* Schematics Netlist *

.EXTERNAL OUTPUT SUM
.EXTERNAL OUTPUT CARRY


X_U1A         $N_0001 $N_0002 $N_0003 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $N_0003 $N_0004 SUM $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $N_0001 $N_0002 $N_0005 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0003 $N_0004 $N_0006 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         $N_0005 $N_0006 CARRY $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM-Z         STIM(1,0) $G_DPWR $G_DGND $N_0004 IO_STM STIMULUS=Z
U_DSTM-Y         STIM(1,0) $G_DPWR $G_DGND $N_0001 IO_STM STIMULUS=Y
U_DSTM-X         STIM(1,0) $G_DPWR $G_DGND $N_0002 IO_STM STIMULUS=X
