* Schematics Netlist *



X_U1A         $N_0001 $N_0002 $N_0003 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $N_0001 $N_0002 $N_0004 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $N_0001 $N_0002 $N_0004 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0001 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=1s 
+ 0s 0  
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ $N_0002 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=0.5s 
+ 0s 0  
+ 0.5s 1  
+ 1s 0  
+ 1.5s 1 
+ 2s 0  
