* Schematics Netlist *

.EXTERNAL OUTPUT BORROW
.EXTERNAL OUTPUT DIFFERENCE


U_DSTM-X         STIM(1,0) $G_DPWR $G_DGND $N_0001 IO_STM STIMULUS=X
U_DSTM-Y         STIM(1,0) $G_DPWR $G_DGND $N_0002 IO_STM STIMULUS=Y
X_U1A         $N_0001 $N_0002 DIFFERENCE $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $N_0001 $N_0003 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $N_0003 $N_0002 BORROW $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
